US04555406
120 g of 6-(2,4-difluorophenoxy)-5-indanylamine is kept in 1.2 l of acetic acid and 0.5 l of acetic anhydride for 30 minutes at 50° C. and then, at this temperature, a solution of chromium trioxide (110 g) in 50 ml of water and 300 ml of acetic acid is added dropwise thereto. After 30 minutes at 50° C., the mixture is concentrated, water is added, the mixture is extracted with chloroform and chromatographed with chloroform over a silica gel column, yielding 30 g of 6-acetylamino-5-(2,4-difluorophenoxy)-1indanone, mp 210° C. This quantity is dissolved in 500 ml of tetrahydrofuran, and the solution is combined at 40° C. with a phenylmagnesium bromide solution in ether (prepared from 24 g of magnesium, 108 ml of bromobenzene, and 500 ml of ether). After 16 hours at 20° C., the mixture is decomposed with ammonium chloride solution. The organic phase is stirred for 5 minutes with 8 g of p-toluenesulfonic acid. After filtration, the mixture is concentrated, the residue is extracted by stirring with petroleum ether and recrystallized from ethanol, thus obtaining 22 g of N-[6-(2,4-difluorophenoxy)-3-phenyl-5-indenyl]acetamide. This product is dissolved in 60 ml of dioxane and 240 ml of ethanol and hydrogenated over 1.2 g of palladium-charcoal (10%). Concentration and crystallization from petroleum ether yield 16.5 g of N-[6-(2,4-difluorophenoxy)-3-phenyl-5-indanyl]acetamide, mp 117° C. This product is stirred in 200 ml of acetone with a solution of 8 g of chromium trioxide, 20 ml of sulfuric acid, and 40 ml of acetic acid for 16 hours at 20° C. After adding sodium bisulfite, the mixture is concentrated, taken up in chloroform, the chloroform solution is washed with sodium hydroxide solution and concentrated. Chromatography over silica gel with toluene-ethyl acetate yields 6 g of 5-acetylamino-6-(2,4-difluorophenoxy)-3-phenyl-1-indanone, mp 163° C. This quantity is refluxed in 50 ml of ethanol and 10 ml of hydrochloric acid (10-normal) for 2 hours. After concentration, the mixture is made weakly alkaline with ammonia, vacuum-filtered, dried, taken up in 60 ml of pyridine, and combined with 2.3 g of methanesulfonyl chloride. The mixture is concentrated after having been left for 25 hours at 20° C., combined with water, vacuum-filtered, dissolved in 1N sodium hydroxide solution, and acidified with 10N hydrochloric acid. Vacuum-filtering yields 3.1 g of 6-(2,4-difluorophenoxy)-5-methylsulfonylamino-3-phenyl-1-indanone, mp 101° C.

reactant | 6-(2,4-difluorophenoxy)-5-indanylamine | 120 g | FC1=C(OC2=C(C=C3CCCC3=C2)N)C=CC(=C1)F | C15H13F2NO
reactant | acetic anhydride | 0.5 l | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 1.2 l | C(C)(=O)O | C2H4O2
reactant | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
catalyst | chromium trioxide | 110 g | [O-2].[O-2].[O-2].[Cr+6]
product | 6-acetylamino-5-(2,4-difluorophenoxy)-1indanone | 30 g | C(C)(=O)NC1=C(C=C2CCC(C2=C1)=O)OC1=C(C=C(C=C1)F)F | C17H13F2NO3
